US09212190B2
To a solution of 4-(morpholin-4-yl)cyclohexan-1-ol (143 mg, 0.77 mmol, 1.10 equiv) in THF (20 mL) was added sodium hydride (140 mg, 3.50 mmol, 5.00 equiv, 60% dispersion in mineral oil) at 0° C. The solution was stirred for 30 min at room temperature under nitrogen. Then tert-butyl N-(2-[4-chlorothieno[2,3-d]pyrimidin-6-yl]ethyl)carbamate (220 mg, 0.70 mmol, 1.00 equiv) in 5 mL of THF was added via syringe and the resulting solution was stirred overnight at room temperature. The reaction was then quenched by the addition of brine and extracted with EtOAc. The organic layers were combined and dried over anhydrous sodium sulfate. After filtration and concentration in vacuo, the residue was purified by a silica gel column with DCM/MeOH (30:1-10:1) to provide 127 mg (39%) of tert-butyl N-[2-(4-[[4-(morpholin-4-yl)cyclohexyl]oxy]thieno[2,3-d]pyrimidin-6-yl)ethyl]carbamate as a white solid. MS (ES): m/z 463 (M+H)+.

reactant | 4-(morpholin-4-yl)cyclohexan-1-ol | 0.77 mmol, 143 mg, 1.10 equiv | N1(CCOCC1)C1CCC(CC1)O | C10H19NO2
reactant | sodium hydride | 3.50 mmol, 140 mg, 5.00 equiv | [H-].[Na+]
reactant | tert-butyl N-(2-[4-chlorothieno[2,3-d]pyrimidin-6-yl]ethyl)carbamate | 0.70 mmol, 220 mg, 1.00 equiv | ClC=1C2=C(N=CN1)SC(=C2)CCNC(OC(C)(C)C)=O | C13H16ClN3O2S
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | tert-butyl N-[2-(4-[[4-(morpholin-4-yl)cyclohexyl]oxy]thieno[2,3-d]pyrimidin-6-yl)ethyl]carbamate | 127 mg, 39% | N1(CCOCC1)C1CCC(CC1)OC=1C2=C(N=CN1)SC(=C2)CCNC(OC(C)(C)C)=O | C23H34N4O4S
